US04758578
3-(4-Hydroxyphenyl)-1,2,4-thiadiazole-5-sulfonamide
To 35 g of pyridine hydrochloride at 200° was added 28 g of 3-(4-methoxyphenyl)-1,2,4-thiadiazole-5-sulfonamide with stirring. The resulting mixture was maintained at 200°-4° for 10 minutes, cooled slightly, poured into excess ice water and extracted with ethyl acetate (3x). The organics were dried over anhydrous magnesium sulfate and concentrated to give 2.0 g of solid. Flash chromatography using 10% ethyl acetate/dichloromethane as eluent gave 1.0 g of solid. This was combined with 0.5 g of the same compound from a previous reaction and recrystallized from water using decolorizing carbon to give 0.95 g of solid, m.p. 219°-221°.

reactant | pyridine hydrochloride | 35 g | Cl.N1=CC=CC=C1
reactant | 3-(4-methoxyphenyl)-1,2,4-thiadiazole-5-sulfonamide | 28 g | COC1=CC=C(C=C1)C1=NSC(=N1)S(=O)(=O)N | C9H9N3O3S2
product | 3-(4-Hydroxyphenyl)-1,2,4-thiadiazole-5-sulfonamide | 2.0 g | OC1=CC=C(C=C1)C1=NSC(=N1)S(=O)(=O)N | C8H7N3O3S2
